US07939661B2
Step 1: 4-(2-Methyl-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 4-bromo-2-methyl-pyridine (1.99 g, 11.55 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.78 g, 13.86 mmol, 1.2 equiv; commercially available) in toluene (40 mL) was added KOtert-Bu (3.24 g, 28.87 mmol, 2.5 equiv), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (0.11 g, 0.23 mmol, 0.02 equiv; X-Phos ligand [CAS RN 564483-18-7]; commercially available from Strem Chemicals, USA) and tris(dibenzylideneacetone) dipalladium(0) (0.96 g, 0.92 mmol, 0.08 equiv). The reaction mixture was stirred under nitrogen at 100° C. for 16 h, cooled to rt, filtered and the filtrate concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with a gradient of ethyl acetate/triethylamine (10:0→9:1) to provide 1.75 g (52%) of the title compound in 90% purity according to 1H NMR. 1H NMR (400 MHz, DMSO): δ 1.14-1.29 (m, 2H), 1.40 (s, 9H), 1.84 (d, J=12.8 Hz, 2H), 2.24 (s, 3H), 2.90 (br s, 2H), 3.40-3.53 (m, 1H), 3.86 (d, J=13.0 Hz, 2H), 6.23-6.33 (m, 2H), 6.35 (s, 1H), 7.87 (d, J=5.8 Hz, 1H). MS (ESI): 292.2 [M+H]+.

reactant | 4-bromo-2-methyl-pyridine | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 28.87 mmol, 3.24 g, 2.5 equiv | O([K])C(C)(C)C
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.92 mmol, 0.96 g, 0.08 equiv | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-(2-Methyl-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.75 g, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(=NC=C1)C | C16H25N3O2
